US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (90 mg, 0.27 mmol), 1-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone (500 mg, crude), Pd2(dba)3 (16 mg, 0.027 mmol), X-phos (26 mg, 0.054 mmol) and Na2CO3 (86 mg, 0.81 mmol) in dioxane (5 mL) and water (5 mL) was heated to 100° C. for 15 h then concentrated in vacuo and purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 40% acetonitrile/60% water (0.1% TFA, v/v) in a linear fashion over 9 min) to afford 1-(7-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone (20 mg, 16%). 1H NMR (300 MHz, CD3OD): δ 8.87-8.83 (m, 1H), 8.25 (s, 1H), 7.96 (s, 1H), 7.83-7.81 (m, 1H), 7.71-7.48 (m, 2H), 7.34-7.31 (m, 1H), 6.30-6.19 (m, 2H), 4.78-4.74 (m, 2H), 4.26-4.22 (m, 1H), 3.81-3.77 (m, 2H), 3.68-3.62 (m, 1H), 3.46-3.41 (m, 1H), 3.01-2.93 (m, 2H), 2.23 (s, 3H), 2.18-2.02 (m, 3H), 1.88-1.83 (m, 1H), 1.21-1.19 (m, 3H). LC-MS: [M+H]+, 468, tR=1.726 min, HPLC: 96.93% at 214 nm, 99.52% at 254 nm, tR=6.04 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.27 mmol, 90 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 1-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | 500 mg | CC1(OB(OC1(C)C)C1=CC=C2CCN(CC2=C1)C(C)=O)C | C17H24BNO3
reactant | X-phos | 0.054 mmol, 26 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.81 mmol, 86 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.027 mmol, 16 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(7-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | 20 mg, 16% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C3CCN(CC3=C1)C(C)=O)C=CN2 | C27H29N7O
